US08252755B2
Preparation of 1-(bis(4-methoxyphenyl)(phenyl)methoxy)icosan-3-ol (XXIII)
Icosane-1,3-diol (3.7 g, 11.8 mmoles) is co-evaporated twice with anhydrous pyridine (50 mL each) and then is dissolved in anhydrous pyridine (60 mL). The solution is chilled in an ice bath, and 4,4′-dimethoxytritylchloride (4.2 g, 12.4 mmoles) is added. The reaction is allowed to warm to ambient temperature and is stirred for 16 hours. The remaining 4,4′-dimethoxytritylchloride is quenched with methanol (10 mL), and the yellow solution is then evaporated to near dryness. The residue is co-evaporated twice to dryness with toluene (50 mL each). The crude product is purified on silica gel (150 mL bed volume) eluting with hexanes:acetone:triethylamine (95.5:5:0:5 [v/v/v], 500 mL). Fractions containing pure product by thin layer chromatography are pooled and evaporated to a pale yellow syrup. The syrup is dried well in vacuo. The yield is 6.8 g (93%).

reactant | Icosane-1,3-diol | 11.8 mmoles, 3.7 g | C(CC(CCCCCCCCCCCCCCCCC)O)O | C20H42O2
reactant | 4,4′-dimethoxytritylchloride | 12.4 mmoles, 4.2 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 1-(bis(4-methoxyphenyl)(phenyl)methoxy)icosan-3-ol | COC1=CC=C(C=C1)C(OCCC(CCCCCCCCCCCCCCCCC)O)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C41H60O4
